US07888362B2
3.7 ml of concentrated hydrochloric acid was added to a methanol solution of 9.5 g of 1-benzo[b]thiophen-4-yl-piperazine, and the solvent was evaporated under reduced pressure. Ethyl acetate was added to the residue and precipitated crystals were filtrated and recrystallized from methanol and 1-benzo[b]thiophen-4-yl-piperazine hydrochloride was obtained as colorless needle-like crystals.

reactant | hydrochloric acid | 3.7 ml | Cl | ClH
reactant | 1-benzo[b]thiophen-4-yl-piperazine | 9.5 g | S1C2=C(C=C1)C(=CC=C2)N2CCNCC2 | C12H14N2S
solvent | methanol | CO | CH4O
product | 1-benzo[b]thiophen-4-yl-piperazine hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCNCC2 | InChI=1S/C12H14N2S.ClH/c1-2-11(14-7-5-13-6-8-14)10-4-9-15-12(10)3-1;/h1-4,9,13H,5-8H2;1H
